US08278343B2
Preparation 35: 1-(4-Chloro-benzoyl)-3-[4-(5-chloro-pyridin-2-yl)-phenoxymethyl]-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 29 using 4-(5-chloro-pyridin-2-yl)-phenol (Preparation 17) and 1-(4-chloro-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 13) to afford the racemate as a white solid (63 mg, 30%)

reactant | 4-(5-chloro-pyridin-2-yl)-phenol | ClC=1C=CC(=NC1)C1=CC=C(C=C1)O | C11H8ClNO
reactant | 1-(4-chloro-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)Cl)=O)CI | C15H17ClINO3
product | 1-(4-Chloro-benzoyl)-3-[4-(5-chloro-pyridin-2-yl)-phenoxymethyl]-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)Cl)=O)COC1=CC=C(C=C1)C1=NC=C(C=C1)Cl | C26H24Cl2N2O4
